US05476875
ba) 3.2 g of alpha-[4-(benzyloxy)-5-methoxyphenyl]-3-pyridinemethanol suspended in 50 ml of water are treated with 2.5 g of potassium permanganate, whereupon the mixture is stirred at 90° for 30 minutes. After adding a further 1.0 g of potassium permanganate and stirring for a further 30 minutes at 90° the mixture is cooled to room temperature and extracted twice with 150 ml of ethyl acetate each time. The combined ethyl acetate phases are washed with sodium chloride solution, dried over sodium sulfate and evaporated. The thus-obtained residue is chromatographed on 50 g of silica gel with ethyl acetate. After recrystallization from methylene chloride/hexane there is obtained 4-(benzyloxy)-3-methoxyphenyl 3-pyridyl ketone of m.p. 76°.

reactant | alpha-[4-(benzyloxy)-5-methoxyphenyl]-3-pyridinemethanol | 3.2 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1OC)C(O)C=1C=NC=CC1 | C20H19NO3
reactant | potassium permanganate | 2.5 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | potassium permanganate | 1.0 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | water | 50 ml | O | H2O
product | 4-(benzyloxy)-3-methoxyphenyl 3-pyridyl ketone | N1=CC(=CC=C1)C(=O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)OC | C20H17NO3
